US04010177
A stirred mixture of 8-chloro-1-(chloromethyl)-6-phenyl-4-H-s-triazolo[4,3-a][1,4]benzodiazepine (1.37 g., 0.004 mole), potassium iodide (0.67 g., 0.004 mole), methylallylamine (0.84 g., 0.012 mole) and tetrahydrofuran (100 ml.) is kept at ambient temperature (25° C.) for 18 hours and concentrated in vacuo. The residue is mixed with water and extracted with methylene chloride. The extract is washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue is crystallized from ethyl acetate-Skellysolve B hexanes to give 1.19 g of 8-chloro-1-[(allylmethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine of melting point 157°-160° C. The analytical sample has a melting point of 158° -164° C. Anal. calcd. for C21H20ClN5 : C, 66.75; H, 5.33; Cl, 9.38; N, 18.53. Found: C, 66.87; H, 5.46; Cl, 9.42; N, 18.67. Preparation 40 8-Chloro-1-[(allylmethylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8-chloro-1-(chloromethyl)-6-phenyl-4-H-s-triazolo[4,3-a][1,4]benzodiazepine | 0.004 mole, 1.37 g | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C17H12Cl2N4
reactant | potassium iodide | 0.004 mole, 0.67 g | [I-].[K+]
reactant | methylallylamine | 0.012 mole, 0.84 g | CC=CCN | C4H9N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 8-chloro-1-[(allylmethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 1.19 g | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCCC=C)C3=CC=CC=C3)C1 | C21H20ClN5
